US09388189B2
c) 5-Amino-2-(3-(dimethylamino)propoxy)phenol
2-(3-(Dimethylamino)propoxy)-5-nitrophenol (220 mg 0.92 mmol), ammonium chloride (232 mg, 4.34 mmol) and powdered iron (242 mg, 4.33 mmol) were suspended in THF (5 ml) and water (10 ml) and the mixture was stirred at 70° C. overnight. The reaction mixture was diluted with water, neutralised to pH=6 with sodium carbonate and extracted with ethyl acetate (×3). The organic phase was washed successively with water and brine, dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. 75 mg (24% yield, 61% purity) of the title compound were obtained and used in the next synthetic step without further purification.

reactant | 2-(3-(Dimethylamino)propoxy)-5-nitrophenol | 0.92 mmol, 220 mg | CN(CCCOC1=C(C=C(C=C1)[N+](=O)[O-])O)C | C11H16N2O4
reactant | ammonium chloride | 4.34 mmol, 232 mg | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | 4.33 mmol, 242 mg | [Fe] | Fe
solvent | water | 10 ml | O | H2O
product | 5-Amino-2-(3-(dimethylamino)propoxy)phenol | 24% yield | NC=1C=CC(=C(C1)O)OCCCN(C)C | C11H18N2O2
